US06432993B1
t-Butyl N-[2-amino-5-(3-dimethylaminophenoxy)phenyl]-N-methylcarbamate
In a similar manner to that described in Reference Example 7, a reaction was carried out using t-butyl N-[5-(3-dimethylaminophenoxy)-2-nitrophenyl]-N-methylcarbamate (2.14 g), palladium on carbon (10%, 2.14 g) and methanol (40 ml) and the reaction mixture was purified to give the title compound (1.63 g).

reactant | t-butyl N-[5-(3-dimethylaminophenoxy)-2-nitrophenyl]-N-methylcarbamate | 2.14 g | CN(C=1C=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=CC1)C | C20H25N3O5
catalyst | palladium on carbon | 2.14 g | [Pd] | Pd
solvent | methanol | 40 ml | CO | CH4O
product | t-Butyl N-[2-amino-5-(3-dimethylaminophenoxy)phenyl]-N-methylcarbamate | 1.63 g | NC1=C(C=C(C=C1)OC1=CC(=CC=C1)N(C)C)N(C(OC(C)(C)C)=O)C | C20H27N3O3
